US07247645B2
1) Synthesis of 2-(2-cyanoethoxycarbonyl)benzaldehyde:
1.51 g (10.0 mmol) of 3-carboxybenzaldehyde, 1.85 g (26.0 mmol) of ethylene cyanohydrin, 4.99 g (26.2 mmol) of WSC hydrochloride, 1.82 ml (13.1 mmol) of triethylamine and 1.49 g (11.0 mmol) of HOBt were stirred in 20 ml of dichloromethane at room temperature overnight. 1 N hydrochloric acid was added to the reaction mixture. After extraction with dichloromethane, the organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure to obtain the title compound.

reactant | 3-carboxybenzaldehyde | 10.0 mmol, 1.51 g | C(=O)(O)C=1C=C(C=O)C=CC1 | C8H6O3
reactant | ethylene cyanohydrin | 26.0 mmol, 1.85 g | C(CO)C#N | C3H5NO
reactant | WSC hydrochloride | 26.2 mmol, 4.99 g | CCN=C=NCCCN(C)C.Cl
reactant | triethylamine | 13.1 mmol, 1.82 ml | C(C)N(CC)CC | C6H15N
reactant | HOBt | 11.0 mmol, 1.49 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-(2-cyanoethoxycarbonyl)benzaldehyde | quantitative yield | C(#N)CCOC(=O)C1=C(C=O)C=CC=C1 | C11H9NO3
